US09422240B2
Ethyl 3-amino-2,2-difluoropropanoate hydrochloride
To ethanol (12.0 mL), thionyl chloride (0.587 mL) was added at 0° C. and the mixture was stirred at that temperature for 30 minutes. After adding 3-amino-2,2-difluoropropionic acid hydrochloride (950 mg) at 0° C., the mixture was refluxed for 4 hours. After being cooled to room temperature, the mixture was concentrated under reduced pressure. After adding ethyl acetate, the resulting precipitate was removed by filtration. The filtrate was concentrated under reduced pressure to give the titled compound as a pale brown oil (920 mg).

reactant | thionyl chloride | 0.587 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-amino-2,2-difluoropropionic acid hydrochloride | 950 mg | Cl.NCC(C(=O)O)(F)F
reactant | ethanol | 12.0 mL | C(C)O | C2H6O
product | Ethyl 3-amino-2,2-difluoropropanoate hydrochloride | 920 mg | Cl.NCC(C(=O)OCC)(F)F | InChI=1S/C5H9F2NO2.ClH/c1-2-10-4(9)5(6,7)3-8;/h2-3,8H2,1H3;1H
